US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methylphenyl)urea
4N HCl-dioxane (5.0 ml) was added to 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (400 mg) in anhydrous ethanol (15 ml), and the mixture was stirred at 50° C. for 15 minutes. The reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium bicarbonate was added to the residue, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine. Subsequently, this compound was dissolved in anhydrous tetrahydrofuran (10 ml), and m-tolyl isocyanate (0.10 ml) was added to thereto. The mixture was stirred at room temperature for 15 minutes. The solvent was evaporated under reduced pressure. A solvent mixture of isopropyl ether and ethanol was added thereto for solidification and collection by filtration, to thereby obtain 394 mg of the title compound (yield: 93.1%).

reactant | HCl dioxane | 4N, 5.0 ml | Cl.O1CCOCC1
reactant | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 400 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(=O)C21CC3CC(CC(C2)C3)C1)NC(=O)OC(C)(C)C)=O)C | C34H41N3O5
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methylphenyl)urea | 394 mg, yield: 93.1% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(=O)C21CC3CC(CC(C2)C3)C1)NC(=O)NC1=CC(=CC=C1)C)=O)C | C37H40N4O4
